US04999448
Preparation of 1-(3-Chloro-2-methoxymethoxyphenyl)-1-(2-methoxyphenyl)ethanol
1-Chloro-2-methoxymethoxybenzene (20.0 g) was combined with 72.5 ml of 1.6 M n-butyl lithium in hexane at 0° C. with stirring and allowed to react for 4 hours. A solution of 16.0 ml of 2-methoxyacetophenone in 20 ml of tetrahydrofuran was then added with stirring. After a short reaction period, water and ether were added and the ether layer was dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain an oil. This was purified by liquid chromatography, eluting with a 95:5 mixture of hexane and ethyl acetate, to obtain 6.67 g of the title compound as an oil. The assigned structure was consistent with the proton NMR spectrum.

reactant | 1-Chloro-2-methoxymethoxybenzene | 20.0 g | ClC1=C(C=CC=C1)OCOC | C8H9ClO2
reactant | n-butyl lithium | 1.6 M, 72.5 ml | C(CCC)[Li]
reactant | 2-methoxyacetophenone | 16.0 ml | COCC(=O)C1=CC=CC=C1 | C9H10O2
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-(3-Chloro-2-methoxymethoxyphenyl)-1-(2-methoxyphenyl)ethanol | 6.67 g | ClC=1C(=C(C=CC1)C(C)(O)C1=C(C=CC=C1)OC)OCOC | C17H19ClO4
